US04399138
A stirred mixture of (S)-2-(3,5-diamino-6-chloropyrazine-2-carboxamido)-3-phenylpropionic acid (1.8 g.), 1-β-aminoethylamino-3-α-naphthyloxypropan-2-ol (1.43 g.), 2-isobutoxy-1-isobutoxycarbonyl-1,2-dihydroquinoline (1.5 g.) and dimethylsulphoxide (30 ml.) was heated at 75° C. for 18 hours, cooled and poured into ice-water (600 ml.). Aqueous 6% w/v sodium bicarbonate solution (50 ml.) was added, the mixture was filtered and the solid product was washed with diethylether (100 ml.). There was thus obtained as solid product 3,5-diamino-6-chloro-N-{1-[N-β-(2-hydroxy-3-α-naphthyloxypropylamino)ethylcarbamoyl]-2-phenylethyl}pyrazine-2-carboxamide, m.p. 142°-146° C.

reactant | (S)-2-(3,5-diamino-6-chloropyrazine-2-carboxamido)-3-phenylpropionic acid | 1.8 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C14H14ClN5O3
reactant | 1-β-aminoethylamino-3-α-naphthyloxypropan-2-ol | 1.43 g | NCCNCC(COC1=CC=CC2=CC=CC=C12)O | C15H20N2O2
reactant | 2-isobutoxy-1-isobutoxycarbonyl-1,2-dihydroquinoline | 1.5 g | C(C(C)C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC(C)C | C18H25NO3
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dimethylsulphoxide | 30 ml | CS(=O)C | C2H6OS
product | 3,5-diamino-6-chloro-N-{1-[N-β-(2-hydroxy-3-α-naphthyloxypropylamino)ethylcarbamoyl]-2-phenylethyl}pyrazine-2-carboxamide | NC=1C(=NC(=C(N1)N)Cl)C(=O)NC(CC1=CC=CC=C1)C(NCCNCC(COC1=CC=CC2=CC=CC=C12)O)=O | C29H32ClN7O4
